US05473071
A mixture of 0.46 g of methyl 4-[2-(2-amino-4-hydroxypyrido[2,3,d]pyrimidin-6-yl)ethyl]benzoate and 30 mL of 1N sodium hydroxide is stirred at room temperature for 36 hours and then acidified with glacial acetic acid. The resulting suspension is centrifuged with fresh water several times and then combined with methanol. The water is removed azeotropically under reduced pressure to yield 4-[2-(2-amino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoic acid, m.p. >300° C.; IR (KBr) ν max 3220, 2855, 1680, 1607, 1483, 1398, 1253, 1179, 1016, and 812 cm-1 ; 1H NMR (dTFA, d6DMSO) delta 8.38 (s, 1H (7)-H), 8.02 (s, 1H, (5)-H), 7.62 (d, J=8.0 Hz, 2H, Ar), 6.87 (s, 1H, (3)-H), 6.82 (d, J=8.0 Hz, 2H, Ar), 2.79 (m, 2H, (6)-CH2 --), 2.70 (m, 2H, benzyl).

reactant | methyl 4-[2-(2-amino-4-hydroxypyrido[2,3,d]pyrimidin-6-yl)ethyl]benzoate | 0.46 g | NC=1N=C(C2=C(N1)N=CC(=C2)CCC2=CC=C(C(=O)OC)C=C2)O | C17H16N4O3
reactant | sodium hydroxide | 1N, 30 mL | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-[2-(2-amino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoic acid | NC=1N=C(C2=C(N1)N=CC(=C2)CCC2=CC=C(C(=O)O)C=C2)O | C16H14N4O3
